2166-02-28 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   40yo man with h/o ascending aortic dissection and St. Jude's valve on
   coumadin, with right renal mass, here in ICU for monitoring after R
   radical nephrectomy.
   24 Hour Events:
   -saturating dressing with blood HCT stable 33.2 -> 32.9 -> 32.4
   -decreased lung volumes on CXR but did well when vent changed to
   pressure support
   -metoprolol IV for BP control
   -UOP good overnight was 9 cc 1^st hr but then between 15-70 cc other
   hrs, generally UOP in 20s/hr
   -Initial CXR very went but repeat gas was good on pressure support- see
   below
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,000 units/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2166-2-28**] 04:59 AM
   Fentanyl - [**2166-2-28**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-28**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 81 (76 - 86) bpm
   BP: 131/52(73) {131/50(19) - 186/65(95)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  9,310 mL
                                                                  1,351 mL
   PO:
             TF:
   IVF:
                                                                    846 mL
                                                                  1,351 mL
   Blood products:
                                                                  8,464 mL
   Total out:
                                                                  2,733 mL
                                                                    269 mL
   Urine:
                                                                    108 mL
                                                                    269 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,577 mL
                                                                  1,082 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 587 (582 - 3,380) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/46/132/23/0
   Ve: 12 L/min
   PaO2 / FiO2: 264
   Physical Examination
   GENERAL - intubated, responding to all commands, easily arousable
   NECK - supple, no thyromegaly, JVP=to angle of ear
   LUNGS - CTA anteriorly
   HEART - +mechanical SEM in across precordium, no rubs
   ABDOMEN - dressings over large right flank incision site blood soaked
   not changed since 3 am, soft, NTND, ,decreased bs
   EXTREMITIES - WWP, no LE pitting edema
   Labs / Radiology
   195 K/uL
   10.9 g/dL
   120 mg/dL
   2.4 mg/dL
   23 mEq/L
   4.6 mEq/L
   23 mg/dL
   109 mEq/L
   142 mEq/L
   32.4 %
   10.2 K/uL
        [image002.jpg]
   Calcium 8.6 mg 3.3 phosphate 5.4
   INR 1.4 PTT 65.7 -> 94.3
                             [**2166-2-27**]  07:27 PM
                             [**2166-2-27**]  07:30 PM
                             [**2166-2-28**]  12:12 AM
                             [**2166-2-28**]  12:31 AM
                             [**2166-2-28**]  04:24 AM
   WBC
   10.1
   10.2
   Hct
   33.2
   32.9
   32.4
   Plt
   240
   195
   Cr
   1.8
   2.4
   TCO2
   26
   26
   Glucose
   118
   120
   Other labs: PT / PTT / INR:16.2/65.7/1.4, Lactic Acid:1.3 mmol/L,
   Albumin:3.8 g/dL, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   40yo man with h/o ascending aortic dissection and St. Jude's valve on
   coumadin, with right renal mass, here in ICU for monitoring after R
   radical nephrectomy.
   .
   #. s/p R radical nephrectomy and removal of large renal mass: Patient
   on [**2-27**] underwent large surgery with successful removal of R kidney
   including large 13cm mass suspicious for malignancy. Pathology was
   sent, still not back. This mass was likely cause of perinephric bleed
   during last hospital stay requiring IR embolization. Still intubated
   and in ICU overnight.
   - urology following, appreciate comanagement
   - f/u pathology
   - watch dressings as they were blood soaked.  HCT stable but continue
   to check  Q8hr Hct
   - closely monitor UOP and renal function given removal of one kidney
   - fentanyl boluses prn pain overnight
   - lactate was elevated but has normalized to 1.3
   .
   #. Acute on chronic renal failure: Patient with baseline Cr 1.1-1.3
   prior to procedure. Cr up to2.4 on [**2-28**]. Monitor Cr and UOP closely as
   during last hospital stay, patient had acute renal failure with Cr up
   to 6, requiring CVVH and intubation for volume overload. Vigileo
   monitor placed, patient with SVV of 10, CI 5.4.  Pt had acceptable UOP
   overnight.
   - d/c LR as pt volume up
   - goal to keep UOP>15cc/hr, continue to monitor hemodynamics
   - given prior history will consider nephrology c/s today
   -trend creatinine (noon check) will likely trend down given he only has
   one kidney, however may trend up given that will given lasix prior to
   extubation with goal neg 1L
   - hold lisinopril for BP control given renal toxicity
   .
   #. HTN: Patient with h/o HTN. Patient with high BPs, given known aortic
   dissection which has been stable, will need to have strict BP control.
   A-line in place. Patient on carvedilol, lisinopril, and amlodipine at
   home.   He is receiving metoprolol PRN for HTN
   - goal to keep systolic <165, MAP btw 80-100
   - restart carvedilol and
   .
   #. Continued intubation/respiratory failure: Patient was left on vent
   post procedure given concern for fluid overload, or requirement for
   resuscitation. Patient s/p 6L fluids in OR. Pt did well over night with
   good ABG on PS. Sedation low this AM and pt with good cough and
   moderate secretions.  CXR looks better this AM
   -lasix 40 IV x1 with goal neg 1L given volume up per JVD
   -will extubate this AM
   .
   #. Known ascending aortic dissection s/p St Jude's valve: Patient's
   dissection currently stable. Patient bridged with heparin for
   mechanical valve prior to procedure. Good symmetric pulses.
   - On heparin gtt.  Goal PTT 50-70. Was high this AM will adjust per
   scale.
   - strict BP control as above
   - monitor Hct and for bleeding on heparin, however given risk of stroke
   will preferentially give blood over stopping heparin if he drops HCT
   .
   # Decreased bowel sounds: ? pt could be developing ileus.   Resection
   of R kidney proximal  to duodenum although no known damage to GI track
   during procedure.
   -advance NG tube this AM
   -Keep NG tube until flatus
   -Keep PPI on until flatus
   .
   #. Hyperlipidemia
   - hold fenofibrate for now (use in caution with mild-moderate renal
   impairment) but restart as renal function improves
   .
   #. Gout
   - hold home colchicine for now (use in caution with mild-moderate renal
   impairment) but restart as renal function improves
   .
   #. FEN - - NGT/PPI until flatus; NPO until BM, replete lytes
   .
   #. Access - PIV, currently no acute indication for central venous
   access. A-line in place
   .
   #. PPx -
   -DVT ppx with pneumoboots, heparin gtt
   .
   #. Code - Full code confirmed with family, Comments: Wife, HCP
 [**Name (NI) 458**]
   [**Telephone/Fax (1) 6871**] (c), [**Telephone/Fax (1) 6872**] (h), ICU consent signed by wife
   .
   #. Dispo - ICU overnight
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-2-27**] 07:09 PM
   20 Gauge - [**2166-2-27**] 07:09 PM
   Arterial Line - [**2166-2-27**] 07:10 PM
   18 Gauge - [**2166-2-28**] 05:00 AM
   Prophylaxis:
   DVT: hep gtt for St Jude valve
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to urology

2166-03-01 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated
    Hct trended down got 2 Units PRBCs and Hct continued to trend down.
   UOP dropped off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2166-2-28**] 05:30 PM
   Metoprolol - [**2166-2-28**] 10:00 PM
   Furosemide (Lasix) - [**2166-2-28**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-1**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.7
C (96.3
   HR: 103 (78 - 108) bpm
   BP: 163/66(88) {131/56(76) - 175/73(94)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  3,060 mL
                                                                  2,072 mL
   PO:
           TF:
   IVF:
                                                                  2,948 mL
                                                                  1,271 mL
   Blood products:
                                                                    113 mL
                                                                    801 mL
   Total out:
                                                                  1,884 mL
                                                                    229 mL
   Urine:
                                                                  1,884 mL
                                                                    229 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,176 mL
                                                                  1,843 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   207 K/uL
   9.2 g/dL
   198 mg/dL
   4.1 mg/dL
   22 mEq/L
   5.0 mEq/L
   33 mg/dL
   110 mEq/L
   141 mEq/L
   26.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2166-2-27**]  07:27 PM
                             [**2166-2-27**]  07:30 PM
                             [**2166-2-28**]  12:12 AM
                             [**2166-2-28**]  12:31 AM
                             [**2166-2-28**]  04:24 AM
                             [**2166-2-28**]  11:42 AM
                             [**2166-2-28**]  09:08 PM
                             [**2166-3-1**]  03:59 AM
   WBC
   10.1
   10.2
   9.6
   Hct
   33.2
   32.9
   32.4
   33.6
   27.8
   26.4
   Plt
   [**Telephone/Fax (3) 6894**]
   Cr
   1.8
   2.4
   2.9
   3.2
   4.1
   TCO2
   26
   26
   Glucose
   118
   120
   134
   198
   Other labs: PT / PTT / INR:15.6/81.1/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 6895**]//, Lactic Acid:1.3 mmol/L, Albumin:3.8 g/dL, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   40yo man with h/o ascending aortic dissection and St. Jude's valve on
   coumadin, with right renal mass, here in ICU for monitoring after R
   radical nephrectomy.
   .
   #. s/p R radical nephrectomy and removal of large renal mass: Patient
   on [**2-27**] underwent large surgery with successful removal of R kidney
   including large 13cm mass suspicious for malignancy. Pathology was
   sent, still not back. This mass was likely cause of perinephric bleed
   during last hospital stay requiring IR embolization. Still intubated
   and in ICU overnight.
   - urology following, appreciate comanagement
   - f/u pathology
   - watch dressings as they were blood soaked.  HCT stable but continue
   to check  Q8hr Hct
   - closely monitor UOP and renal function given removal of one kidney
   - fentanyl boluses prn pain overnight
   - lactate was elevated but has normalized to 1.3
   .
   #. Acute on chronic renal failure: Patient with baseline Cr 1.1-1.3
   prior to procedure. Cr up to2.4 on [**2-28**]. Monitor Cr and UOP closely as
   during last hospital stay, patient had acute renal failure with Cr up
   to 6, requiring CVVH and intubation for volume overload. Vigileo
   monitor placed, patient with SVV of 10, CI 5.4.  Pt had acceptable UOP
   overnight.
   - d/c LR as pt volume up
   - goal to keep UOP>15cc/hr, continue to monitor hemodynamics
   - given prior history will consider nephrology c/s today
   -trend creatinine (noon check) will likely trend down given he only has
   one kidney, however may trend up given that will given lasix prior to
   extubation with goal neg 1L
   - hold lisinopril for BP control given renal toxicity
   .
   #. HTN: Patient with h/o HTN. Patient with high BPs, given known aortic
   dissection which has been stable, will need to have strict BP control.
   A-line in place. Patient on carvedilol, lisinopril, and amlodipine at
   home.   He is receiving metoprolol PRN for HTN
   - goal to keep systolic <165, MAP btw 80-100
   - restart carvedilol and
   .
   #. Continued intubation/respiratory failure: Patient was left on vent
   post procedure given concern for fluid overload, or requirement for
   resuscitation. Patient s/p 6L fluids in OR. Pt did well over night with
   good ABG on PS. Sedation low this AM and pt with good cough and
   moderate secretions.  CXR looks better this AM
   -lasix 40 IV x1 with goal neg 1L given volume up per JVD
   -will extubate this AM
   .
   #. Known ascending aortic dissection s/p St Jude's valve: Patient's
   dissection currently stable. Patient bridged with heparin for
   mechanical valve prior to procedure. Good symmetric pulses.
   - On heparin gtt.  Goal PTT 50-70. Was high this AM will adjust per
   scale.
   - strict BP control as above
   - monitor Hct and for bleeding on heparin, however given risk of stroke
   will preferentially give blood over stopping heparin if he drops HCT
   .
   # Decreased bowel sounds: ? pt could be developing ileus.   Resection
   of R kidney proximal  to duodenum although no known damage to GI track
   during procedure.
   -advance NG tube this AM
   -Keep NG tube until flatus
   -Keep PPI on until flatus
   .
   #. Hyperlipidemia
   - hold fenofibrate for now (use in caution with mild-moderate renal
   impairment) but restart as renal function improves
   .
   #. Gout
   - hold home colchicine for now (use in caution with mild-moderate renal
   impairment) but restart as renal function improves
   .
   #. FEN - - NGT/PPI until flatus; NPO until BM, replete lytes
   .
   #. Access - PIV, currently no acute indication for central venous
   access. A-line in place
   .
   #. PPx -
   -DVT ppx with pneumoboots, heparin gtt
   .
   #. Code - Full code confirmed with family, Comments: Wife, HCP
 [**Name (NI) 458**]
   [**Telephone/Fax (1) 6871**] (c), [**Telephone/Fax (1) 6872**] (h), ICU consent signed by wife
   .
   #. Dispo - ICU overnight
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-2-27**] 07:09 PM
   20 Gauge - [**2166-2-27**] 07:09 PM
   18 Gauge - [**2166-2-28**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-03-01 09:45:00 Physician Attending Progress Note
Chief Complaint: bleeding
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   40 yo male with aortic dissection s/p [**First Name8 (NamePattern2) **] [**Male First Name (un) 1930**] on chronic
   anticoagulation, s/p nephrectomy for renal mass, now  with acute blood
   loss anemia due to retroperitoneal bleed
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2166-2-28**] 09:25 AM
 ARTERIAL LINE - STOP [**2166-2-28**] 01:50 PM
   *got 2 units blood
                            History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2166-2-28**] 05:30 PM
   Metoprolol - [**2166-2-28**] 10:00 PM
   Furosemide (Lasix) - [**2166-2-28**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-1**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8`
C (98.3
   Tcurrent: 36.1
C (97
   HR: 113 (78 - 113) bpm
   BP: 154/43(71) {131/43(71) - 175/73(94)} mmHg
   RR: 11 (11 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  3,060 mL
                                                                  2,521 mL
   PO:
           TF:
   IVF:
                                                                  2,948 mL
                                                                  1,296 mL
   Blood products:
                                                                    113 mL
                                                                  1,225 mL
   Total out:
                                                                  1,884 mL
                                                                    289 mL
   Urine:
                                                                  1,884 mL
                                                                    289 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,176 mL
                                                                  2,232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95% 3 liters nc
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), crisp heart
   sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: right base)
   Abdominal: Soft, Non-tender, Bowel sounds present, surgical incisons
   clear, minimal right tenderness
   Extremities: Right: Absent, Left: Absent, bilateral boots
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   9.2 g/dL
   207 K/uL
   198 mg/dL
   4.1 mg/dL
   22 mEq/L
   5.0 mEq/L
   33 mg/dL
   110 mEq/L
   141 mEq/L
   26.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2166-2-27**]  07:27 PM
                             [**2166-2-27**]  07:30 PM
                             [**2166-2-28**]  12:12 AM
                             [**2166-2-28**]  12:31 AM
                             [**2166-2-28**]  04:24 AM
                             [**2166-2-28**]  11:42 AM
                             [**2166-2-28**]  09:08 PM
                             [**2166-3-1**]  03:59 AM
   WBC
   10.1
   10.2
   9.6
   Hct
   33.2
   32.9
   32.4
   33.6
   27.8
   26.4
   Plt
   [**Telephone/Fax (3) 6894**]
   Cr
   1.8
   2.4
   2.9
   3.2
   4.1
   TCO2
   26
   26
   Glucose
   118
   120
   134
   198
   Other labs: PT / PTT / INR:15.6/81.1/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 6895**]//, Lactic Acid:1.3 mmol/L, Albumin:3.8 g/dL, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:5.9 mg/dL
   Imaging: CT abd:
   Assessment and Plan
 .H/O HYPERTENSION, BENIGN
 ACUTE PAIN
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   40 year old male s/p nephrectomy for renal mass, now with
   retroperitoneal blood, acute blood loss anemia
   1. Retroperitoneal bleed/acute blood loss anemia
   Transfusing blood and holding heparin, but not reversing
   anticoagulation
   Serial hcts
   Hope is that bleeding will cease as anticoagulation is stopped
   Urology following
   2. s/p [**First Name8 (NamePattern2) **] [**Male First Name (un) 1930**]: heart sounds remain crisp. Cardiology to weigh in on
   length of time to safely hold anticoagulation
   3. ARF: Urine output also dropping with mild acidosis and hyperkalemia.
   Receiving volume resuscitation and will obtain Renal consult.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-2-27**] 07:09 PM
   20 Gauge - [**2166-2-27**] 07:09 PM
   18 Gauge - [**2166-2-28**] 05:00 AM
   Multi Lumen - [**2166-3-1**] 07:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2166-03-02 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  s/p R Nephrectomy, Retroperitoneal bleed
   24 Hour Events:
   - Patient received 6 units PRBCs yesterday (over 24 hours)
   - HCT did not respond
   - Finished Transfusion yesterday evening, HCT trended downward, but
   hemodynamically stabe
   - UOP dropped off around 2am to 20cc/hr, did not respond to 500cc bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 4 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-3-1**] 12:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-2**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 83 (83 - 113) bpm
   BP: 150/47(64) {132/38(62) - 191/68(89)} mmHg
   RR: 16 (11 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (14 - 20)mmHg
   Total In:
                                                                  7,972 mL
                                                                  1,935 mL
   PO:
   TF:
   IVF:
                                                                  5,421 mL
                                                                  1,935 mL
   Blood products:
                                                                  2,551 mL
   Total out:
                                                                    560 mL
                                                                    113 mL
   Urine:
                                                                    560 mL
                                                                    113 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,412 mL
                                                                  1,822 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   Gen: A/Ox3, appears uncomfortable
   Heart: RRR, loud mechanical S2
   Lungs: Anterolaterally CTAB
   Abd: Large R sided nephrectomy wound is clean and dry with scant
   serosanguinous drainage
   Ext: Trace pitting edema
   Labs / Radiology
   134 K/uL
   9.3 g/dL
   144 mg/dL
   4.9 mg/dL
   23 mEq/L
   4.8 mEq/L
   45 mg/dL
   109 mEq/L
   141 mEq/L
   24.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2166-2-28**]  11:42 AM
                             [**2166-2-28**]  09:08 PM
                             [**2166-3-1**]  03:59 AM
                             [**2166-3-1**]  09:41 AM
                             [**2166-3-1**]  01:59 PM
                             [**2166-3-1**]  05:05 PM
                             [**2166-3-1**]  09:39 PM
                             [**2166-3-1**]  09:40 PM
                             [**2166-3-2**]  02:18 AM
                             [**2166-3-2**]  05:55 AM
   WBC
   9.6
   6.7
   Hct
   33.6
   27.8
   26.4
   30.6
   28.2
   28.3
   27.9
   26.3
   24.3
   Plt
   207
   134
   Cr
   2.9
   3.2
   4.1
   4.4
   4.6
   4.9
   Glucose
   134
   198
   130
   153
   144
   Other labs: PT / PTT / INR:14.0/26.9/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 6895**]//, Lactic Acid:1.3 mmol/L, Albumin:3.8 g/dL, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   40yo man with h/o St Jude valve p/w RP bleed s/p radical nephrectomy.
   .
   #. RP bleed: Has remained HD stable.  Patient s/p 6 units of PRBCs
   yesterday and has had relatively stable HCT overnight.  Patient
s CVP
   is 17, is likely volume overloaded.  Per urology we will hold heparin
   and follow serial Hcts while transfusing.
   - f/u urology recommendations
   - Q4hour Hct for now
   - closely monitor UOP post diuresis with lasix
   .
   #. Acute on chronic renal failure:  Improving.  ATN vs. Rhabdo. Patient
   has made urine overnight, approx 20-40cc/hr.  Patient has a history of
   ARF needing dialysis in the past.  Given patient
s hemodynamic
   stability, will favor diuresis with lasix IV and closely follow UOP.
   Patient may need CVVH if UOP does not respond, for short term.
   - Lasix 60mg IV, MR x1.  Follow UOP
   - f/u renal recommendations
   - F/u AM CPK
   .
   #. HTN: holding antihypertensives given large bleed and risk of HD
   instability.
   - hold carvedilol, metoprolol, lisinopril
   .
   #. Known ascending aortic dissection s/p St Jude's valve:  Off
   anticoagulation for 24 hours.  Given that the patient has a high flow
   valve, patient can be off coumadin for three days maximum (per
   cardiology recommendations).  Patient has a known aortic dissection
   that was medically managed, keeping SBP < 160.   As soon as he is
   deemed stable will restart heparin drip to avoid emboli. Good symmetric
   pulses.
   - Hold heparin drip for now
   - Continue Labetalol gtt, titrate to goal SBP < 160
   .
   #. Hyperlipidemia
   - hold fenofibrate for now (use in caution with mild-moderate renal
   impairment) but restart as renal function improves
   .
   #. Gout
   - hold home colchicine for now (use in caution with mild-moderate renal
   impairment) but restart as renal function improves
   .
   #. FEN - - NGT/PPI until flatus; NPO, replete lytes
   .
   #. Access -2 PIV, RIJ. A-line in place
   .
   #. PPx -
   -DVT ppx with pneumoboots,
   .
   #. Code - Full code confirmed with family, Comments: Wife, HCP
 [**Name (NI) 458**]
   [**Telephone/Fax (1) 6871**] (c), [**Telephone/Fax (1) 6872**] (h), ICU consent signed by wife
   .
   #. Dispo - ICU until bleeding stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-2-27**] 07:09 PM
   18 Gauge - [**2166-2-28**] 05:00 AM
   Multi Lumen - [**2166-3-1**] 07:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-03-02 08:56:00 Physician Attending Progress Note
Chief Complaint: post-op bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   40 yo male with [**First Name8 (NamePattern2) **] [**Male First Name (un) 1930**] ao valve, hx aortic dissection repair s/p
   nephrectomy with post-op course notable for retroperitoneal blled,
   acute blood loss anemia, acute renal failure
   24 Hour Events:
   *Received 6 units blood with no change in Hct
   *Renal consult, Cards consult
   *Received lasix this morning
   *Started on labetolol infusion to keep SBP <160
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-3-1**] 12:10 PM
   Other medications:
   dilaudid PCA, labetolol gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-2**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.4
   HR: 85 (83 - 106) bpm
   BP: 148/42(67) {132/38(62) - 191/68(89)} mmHg
   RR: 28 (11 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 18 (14 - 20)mmHg
   Total In:
                                                                  7,972 mL
                                                                  2,349 mL
   PO:
   TF:
   IVF:
                                                                  5,421 mL
                                                                  2,349 mL
   Blood products:
                                                                  2,551 mL
   Total out:
                                                                    560 mL
                                                                    121 mL
   Urine:
                                                                    560 mL
                                                                    121 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,412 mL
                                                                  2,228 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, +NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (RRR, crisp S2
   Lungs: slightly decreased at right base
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abd: clear incision scars, hypoactive bs
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  normal
   Neurologic: alert and conversant
   Labs / Radiology
   CXR with small  right effusion
   9.3 g/dL
   134 K/uL
   144 mg/dL
   4.9 mg/dL
   23 mEq/L
   4.8 mEq/L
   45 mg/dL
   109 mEq/L
   141 mEq/L
   24.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2166-2-28**]  11:42 AM
                             [**2166-2-28**]  09:08 PM
                             [**2166-3-1**]  03:59 AM
                             [**2166-3-1**]  09:41 AM
                             [**2166-3-1**]  01:59 PM
                             [**2166-3-1**]  05:05 PM
                             [**2166-3-1**]  09:39 PM
                             [**2166-3-1**]  09:40 PM
                             [**2166-3-2**]  02:18 AM
                             [**2166-3-2**]  05:55 AM
   WBC
   9.6
   6.7
   Hct
   33.6
   27.8
   26.4
   30.6
   28.2
   28.3
   27.9
   26.3
   24.3
   Plt
   207
   134
   Cr
   2.9
   3.2
   4.1
   4.4
   4.6
   4.9
   Glucose
   134
   198
   130
   153
   144
   Other labs: PT / PTT / INR:14.0/26.9/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 6895**]//, Lactic Acid:1.3 mmol/L, Albumin:3.8 g/dL, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 RETROPERITONEAL BLEED (RP BLEED) , PROCEDURE-RELATED
 .H/O HYPERTENSION, BENIGN
 ACUTE PAIN
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   40 yo m s/p nephrectomy with:
   1. Retroperitoneal bleed: no change in hct post-transfusion, but
   possible dilutional effects as pt was vigorously fluid resuscitated
   simultaneously
      Off heparin
      Track serial Hct
      Though downward drift in Hct is concerning, hold off on transfusion
   this morning and see if there
s improvt with diuresis
   2. ARF: ATN vs rhabdo Cr unchanged this morning. Mildly overloaded,
   though acid-base status and K ok
       Attempt diuresis with lasix; aiming for a CVP of ~12
       Renal following
   3. HTN: due to previous hx of aortic dissection and concern for ongoing
   bleed with potential for sudden hypotension, have started pt on
   labetolol infusion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-2-27**] 07:09 PM
   18 Gauge - [**2166-2-28**] 05:00 AM
   Multi Lumen - [**2166-3-1**] 07:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 minutes
   Patient is critically ill

2166-03-03 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Received 2 Units PRBCs and Hct bumped from 22->25.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 2 mg/min
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2166-3-2**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-3**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 79 (77 - 85) bpm
   BP: 157/52(77) {129/35(55) - 158/420(77)} mmHg
   RR: 17 (13 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (9 - 20)mmHg
   Total In:
                                                                  4,430 mL
                                                                    332 mL
   PO:
   TF:
   IVF:
                                                                  3,878 mL
                                                                    332 mL
   Blood products:
                                                                    552 mL
   Total out:
                                                                  1,130 mL
                                                                  1,500 mL
   Urine:
                                                                  1,130 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,300 mL
                                                                 -1,168 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   9.3 g/dL
   100 mg/dL
   5.0 mg/dL
   22 mEq/L
   4.6 mEq/L
   52 mg/dL
   110 mEq/L
   142 mEq/L
   25.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2166-3-1**]  05:05 PM
                             [**2166-3-1**]  09:39 PM
                             [**2166-3-1**]  09:40 PM
                             [**2166-3-2**]  02:18 AM
                             [**2166-3-2**]  05:55 AM
                             [**2166-3-2**]  10:00 AM
                             [**2166-3-2**]  02:35 PM
                             [**2166-3-2**]  05:55 PM
                             [**2166-3-2**]  06:35 PM
                             [**2166-3-3**]  01:38 AM
   WBC
   6.7
   Hct
   28.3
   27.9
   26.3
   24.3
   23.9
   22.8
   22.8
   25.0
   Plt
   134
   Cr
   4.6
   4.9
   5.3
   5.0
   Glucose
   153
   144
   111
   100
   Other labs: PT / PTT / INR:14.0/26.9/1.2, CK / CKMB /
   Troponin-T:7977//, Lactic Acid:1.3 mmol/L, Albumin:3.8 g/dL, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   40yo man with h/o St Jude valve p/w RP bleed s/p radical nephrectomy.
   .
   #. RP bleed: Has remained HD stable.  Patient s/p 6 units of PRBCs
   yesterday and has had relatively stable HCT overnight.  Patient
s CVP
   is 17, is likely volume overloaded.  Per urology we will hold heparin
   and follow serial Hcts while transfusing.
   - f/u urology recommendations
   - Q4hour Hct for now
   - closely monitor UOP post diuresis with lasix
   .
   #. Acute on chronic renal failure:  Improving.  ATN vs. Rhabdo. Patient
   has made urine overnight, approx 20-40cc/hr.  Patient has a history of
   ARF needing dialysis in the past.  Given patient
s hemodynamic
   stability, will favor diuresis with lasix IV and closely follow UOP.
   Patient may need CVVH if UOP does not respond, for short term.
   - Lasix 60mg IV, MR x1.  Follow UOP
   - f/u renal recommendations
   - F/u AM CPK
   .
   #. HTN: holding antihypertensives given large bleed and risk of HD
   instability.
   - hold carvedilol, metoprolol, lisinopril
   .
   #. Known ascending aortic dissection s/p St Jude's valve:  Off
   anticoagulation for 24 hours.  Given that the patient has a high flow
   valve, patient can be off coumadin for three days maximum (per
   cardiology recommendations).  Patient has a known aortic dissection
   that was medically managed, keeping SBP < 160.   As soon as he is
   deemed stable will restart heparin drip to avoid emboli. Good symmetric
   pulses.
   - Hold heparin drip for now
   - Continue Labetalol gtt, titrate to goal SBP < 160
   .
   #. Hyperlipidemia
   - hold fenofibrate for now (use in caution with mild-moderate renal
   impairment) but restart as renal function improves
   .
   #. Gout
   - hold home colchicine for now (use in caution with mild-moderate renal
   impairment) but restart as renal function improves
   .
   #. FEN - - NGT/PPI until flatus; NPO, replete lytes
   .
   #. Access -2 PIV, RIJ. A-line in place
   .
   #. PPx -
   -DVT ppx with pneumoboots,
   .
   #. Code - Full code confirmed with family, Comments: Wife, HCP
 [**Name (NI) 458**]
   [**Telephone/Fax (1) 6871**] (c), [**Telephone/Fax (1) 6872**] (h), ICU consent signed by wife
   .
   #. Dispo - ICU until bleeding stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-2-28**] 05:00 AM
   Multi Lumen - [**2166-3-1**] 07:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-03-04 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  40yo man with h/o St Jude valve p/w RP bleed s/p
   radical nephrectomy, Hct now stable
   24 Hour Events:
   Stopped lasix and autodiuresed large volume
   out of bed to chair
   Switched from IV dilaudid to PO
   Hct remained stable
   Cr decreased on PM lytes
   D/c'd labetalol drip and restarted carvedilol
   Renal u/s was prelim normal (normal blood flow)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-4**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 66 (66 - 83) bpm
   BP: 154/54(75) {138/43(64) - 165/58(81)} mmHg
   RR: 32 (16 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 5 (3 - 12)mmHg
   Total In:
                                                                  1,030 mL
                                                                    180 mL
   PO:
                                                                    240 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    790 mL
   Blood products:
   Total out:
                                                                  6,400 mL
                                                                    750 mL
   Urine:
                                                                  6,400 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,370 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Gen: A/O, conversant
   Heart: RRR, Ii/VI systolic murmur, loud mechanical S2
   Lungs: CTA anteriorly
   Abd: Moderately firm, mildly tender to palpation, BS+
   Ext: 1+ pitting edema bilaterally
   Labs / Radiology
   171 K/uL
   9.5 g/dL
   97 mg/dL
   3.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   61 mg/dL
   105 mEq/L
   142 mEq/L
   27.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2166-3-2**]  10:00 AM
                             [**2166-3-2**]  02:35 PM
                             [**2166-3-2**]  05:55 PM
                             [**2166-3-2**]  06:35 PM
                             [**2166-3-3**]  01:38 AM
                             [**2166-3-3**]  05:46 AM
                             [**2166-3-3**]  10:07 AM
                             [**2166-3-3**]  05:15 PM
                             [**2166-3-3**]  10:02 PM
                             [**2166-3-4**]  03:48 AM
   WBC
   5.3
   4.0
   Hct
   23.9
   22.8
   22.8
   25.0
   26.2
   25.8
   25.9
   26.1
   27.1
   Plt
   141
   171
   Cr
   5.3
   5.0
   5.0
   4.1
   3.5
   Glucose
   111
   100
   106
   100
   97
   Other labs: PT / PTT / INR:15.3/25.4/1.3; Ca++:8.6 mg/dL, Mg++:2.2
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   40yo man with h/o St Jude valve p/w RP bleed s/p radical nephrectomy,
   Hct now stable
   .
   #. RP bleed: Has remained HD stable. Hct stable since being transfused
   o/n.
   - f/u urology recommendations
   - Q6 hour Hct for now
   - Transfuse for Hct<24 and consider reimaging
   .
   #. Acute on chronic renal failure:  Improving.  ATN vs. Rhabdo. This
   may represent resolution of ATN if Cr continues to trend downward.
   - restart lasix drip if Ok w/ urology
   - f/u renal recommendations
   - F/u AM CPK
   .
   #. HTN: Keeping very close BP monitor w/ labetalol drip. Will switch to
   PO BP control.
   - Restart carvedilol
   .
   #. Known ascending aortic dissection s/p St Jude's valve:  Off
   anticoagulation for 48 hours.  patient can be off coumadin for
   three-five days maximum with relatively low risk of embolization. Will
   d/w cards when we should restart heparin.
   - Hold heparin drip for now
   - Switch IV labetalol for PO carvedilol
   .
   #. Hyperlipidemia
   - hold fenofibrate for now (use in caution with mild-moderate renal
   impairment) but restart as renal function improves
   .
   #. Gout
   - hold home colchicine for now (use in caution with mild-moderate renal
   impairment) but restart as renal function improves
   .
   #. FEN - - Will discuss starting diet w/ urology as has passed flatus,
   replete lytes
   .
   #. Access -2 PIV, RIJ.
   .
   #. PPx -
   -DVT ppx with pneumoboots,
   .
   #. Code - Full code confirmed with family, Comments: Wife, HCP
 [**Name (NI) 458**]
   [**Telephone/Fax (1) 6871**] (c), [**Telephone/Fax (1) 6872**] (h), ICU consent signed by wife
   .
   #. Dispo - ICU until bleeding stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-2-28**] 05:00 AM
   Multi Lumen - [**2166-3-1**] 07:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-03-05 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Restarted Heparin drip
   Increased heparin drip as PTT nontherapeutic
   Uptitrated carvedilol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2166-3-5**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-5**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.4
C (95.7
   HR: 70 (61 - 78) bpm
   BP: 140/62(80) {133/51(72) - 172/67(86)} mmHg
   RR: 45 (45 - 45) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 1 (-4 - 9)mmHg
   Total In:
                                                                    704 mL
                                                                    129 mL
   PO:
                                                                    540 mL
   TF:
   IVF:
                                                                    164 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    770 mL
   Urine:
                                                                  2,550 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,846 mL
                                                                   -641 mL
   Respiratory support
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Gen: A/O, conversant
   HEENT: No icterus, JVD to mandible
   Heart: RRR, loud mechanical S2
   Lungs: Bronchial BS in right base
   Abd: R sided nephrectomy wound healing well, scant serosanguinous
   drainage
   Ext: L hip tender to palpation, numb, 3+ pitting sacral edema. DP
   pulses 2+, no loss of sensation distal to area of numbness.
   Labs / Radiology
   178 K/uL
   10.3 g/dL
   97 mg/dL
   2.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   57 mg/dL
   103 mEq/L
   138 mEq/L
   29.4 %
   3.8 K/uL
        [image002.jpg]
                             [**2166-3-2**]  05:55 PM
                             [**2166-3-2**]  06:35 PM
                             [**2166-3-3**]  01:38 AM
                             [**2166-3-3**]  05:46 AM
                             [**2166-3-3**]  10:07 AM
                             [**2166-3-3**]  05:15 PM
                             [**2166-3-3**]  10:02 PM
                             [**2166-3-4**]  03:48 AM
                             [**2166-3-4**]  06:49 PM
                             [**2166-3-5**]  03:07 AM
   WBC
   5.3
   4.0
   3.8
   Hct
   22.8
   25.0
   26.2
   25.8
   25.9
   26.1
   27.1
   29.6
   29.4
   Plt
   141
   171
   178
   Cr
   5.3
   5.0
   5.0
   4.1
   3.5
   2.7
   2.5
   Glucose
   111
   100
   106
   100
   97
   103
   97
   Other labs: PT / PTT / INR:16.9/44.9/1.5, CK / CKMB /
   Troponin-T:7977//, Lactic Acid:1.3 mmol/L, Albumin:3.8 g/dL, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   40yo man with h/o St Jude valve p/w RP bleed s/p radical nephrectomy,
   Hct now stable
   .
   #. RP bleed, s/p R radical nephrectomy: Continues HD stable. Hct stable
   stable x2 days.
   - Urology to determine frequency of Hct checks, going up on heparin
   drip.
   -.
   #. Acute on chronic renal failure:  Improving.  Cr 2.5. Continues large
   autodiuresis.
   -          PM lytes
   -          Consider d/c foley
   .
   #. HTN:  Goal SBP < 160.  Currently on Carvedilol 25mg [**Hospital1 7**], half home
   dose.  SBPs have been up to 170s, so will uptitrate carvedilol
   - uptitrate carvedilol to 37.5mg [**Hospital1 7**]
   .
   #. Known ascending aortic dissection s/p St Jude's valve:  Off
   anticoagulation for 3 days
   -          Restart Hep gtt, goal PTT 60-70
   -          Continue current dose of Carvedilol
   .
   #. Hyperlipidemia
   - hold fenofibrate for now
   .
   #. Gout
   - hold home colchicine for now given fluctuating renal status
   .
   #. FEN - - Advance diet to clear liquids
   .
   #. Access -1 PIV, RIJ.
   .
   #. PPx -
   -DVT ppx with pneumoboots,
   .
   #. Code - Full code confirmed with family, Comments: Wife, HCP
 [**Name (NI) 458**]
   [**Telephone/Fax (1) 6871**] (c), [**Telephone/Fax (1) 6872**] (h), ICU consent signed by wife
   .
   #. Dispo
 back to urology floor per urology
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-2-28**] 05:00 AM
   Multi Lumen - [**2166-3-1**] 07:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: